US04812462
Methyl-1-(3,4-dimethoxyphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate.
A solution of 1.5 g 3,4-dimethoxybenzyl chloride, 2.5 g methyl-5-diphenylacetyl-3-(2-oxo-2-phenylethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate and 30 mL acetonitrile is heated at reflux 16 hr. The cooled solution is added dropwise to 400 mL vigorously stirred ether and the resulting precipitate is collected by filtration. This precipitate is dissolved in 40 mL methanol and treated with 8 g zinc dust and 40 mL acetic acid. The resulting suspension is sonicated 2 hr then the solution is filtered from excess zinc. The filtrate is dissolved in 400 mL dichloromethane and treated dropwise with 450 mL 10% Na2CO3 with vigorous stirring. The organic phase is separated, dried, concentrated and the major product is isolated by chromatography on silica gel (chloroform-methanol, 99:1) as a crisp foam. NMR (CDCl3) 3.88 (s,3H,0Me); 3.80 (s,3H,0Me); 3.58 (s,3H,0Me).

reactant | 3,4-dimethoxybenzyl chloride | 1.5 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
reactant | methyl-5-diphenylacetyl-3-(2-oxo-2-phenylethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate | 2.5 g | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N(CN2)CC(C2=CC=CC=C2)=O | C30H29N3O4
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | Methyl-1-(3,4-dimethoxyphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N=CN2CC2=CC(=C(C=C2)OC)OC | C31H31N3O5
